US07566712B2
To a solution of 6-{4-[6-(3-chloro-4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-piperazin-1-yl}-5-methyl-pyridin-3-ol (50 mg, 0.10 mmol) in DMF add 60% NaH (12 mg, 0.30 mmol). Stir the solution at room temperature for 30 minutes. Add methyl iodide (0.3 mmol) and stir the solution at room temperature for 2 hours. Partition between EtOAc and water. Wash with brine, dry the solution (Na2SO4), and concentrate under reduced pressure. Purify the residue by flash column chromatography eluting with EtOAc:Hexanes (1:4) to afford 4-(3-chloro-4-fluoro-phenyl)-6-[4-(5-methoxy-3-methyl-pyridin-2-yl)-piperazin-1-yl]-2-(2-methyl-pyrrolidin-1-yl)-pyrimidine as a solid. 1H NMR (300 MHz, CDCl3): δ1.30 (t, 3H, J=6.3 Hz, CH3); 1.70 (m, 1H, CH2CH2); 1.91 (m, 1H, CH2CH2); 2.06 (m, 2H, CH2CH2); 2.33 (s, 3H, Ar—CH3); 3.13 (m, 4H); 3.67 (m, 2H); 3.78 (m, 4H); 3.80 (s, OCH3); 4.33 (m, 1H); 6.25 (s, 1H, Ar—H); 7.06 (d, J=2.4 Hz, 1H); 7.18 (m, 1H); 7.88 (m, 2 H); 7.86 (m, 1H); 8.07 (m, 1H).

reactant | 6-{4-[6-(3-chloro-4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-piperazin-1-yl}-5-methyl-pyridin-3-ol | 0.10 mmol, 50 mg | ClC=1C=C(C=CC1F)C1=CC(=NC(=N1)N1C(CCC1)C)N1CCN(CC1)C1=C(C=C(C=N1)O)C | C25H28ClFN6O
reactant | NaH | 0.30 mmol, 12 mg | [H-].[Na+]
reactant | methyl iodide | 0.3 mmol | CI | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(3-chloro-4-fluoro-phenyl)-6-[4-(5-methoxy-3-methyl-pyridin-2-yl)-piperazin-1-yl]-2-(2-methyl-pyrrolidin-1-yl)-pyrimidine | ClC=1C=C(C=CC1F)C1=NC(=NC(=C1)N1CCN(CC1)C1=NC=C(C=C1C)OC)N1C(CCC1)C | C26H30ClFN6O
